US04735952
4-[(2-Fluorophenyl)thio]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine (1.34 g) was suspended in methanol. Excess ethanolic hydrochloric acid was added to the suspension and the resulting solution was concentrated in vacuo to give an oil. The oil was triturated in acetone to give 4-[(2-fluorophenyl)thio]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine hydrochloride (1.11 g) as a powder.

reactant | 4-[(2-Fluorophenyl)thio]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine | 1.34 g | FC1=C(C=CC=C1)SC1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C28H23F4N3OS
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-[(2-fluorophenyl)thio]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine hydrochloride | 1.11 g | Cl.FC1=C(C=CC=C1)SC1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | InChI=1S/C28H23F4N3OS.ClH/c29-23-3-1-2-4-26(23)37-21-12-15-35(16-13-21)27(36)18-5-8-20(9-6-18)34-24-11-14-33-25-17-19(28(30,31)32)7-10-22(24)25;/h1-11,14,17,21H,12-13,15-16H2,(H,33,34);1H
